* Circuit2Sim - Universal SPICE Netlist
* Model: Project abbd3f2e Schematic Model
* Compatible with: LTspice, ngspice, PSpice, Multisim, PLECS
* -------------------------------------------------------------

V1 N1_VIN 0 DC 12.0
R2 N1_VIN N2 10000.0
L3 N2 N3 0.001
R4 N3 N4 10000.0
C5 N4 N5 1e-06
L6 N5 N6 0.001
R7 N6 N7 10000.0
C8 N7 N8 1e-06
C9 N8 N9 1e-07
C10 N9 N10 1e-07
R11 N10 0 10000.0
* GND12 Reference Ground Node 0

* Transient analysis: start 0, stop 10ms, step 1us
.tran 1u 10m
.end